US20010018438A1
A solution of 2-(4-methoxyphenyl)-1-(pyridin-4-yl)ethanone (10.2 g) and dimethylformamide-dimethylacetal (20 cm3) in dry dimethylformamide (50 cm3) was stirred at 80° C. for 4 hours. The mixture was cooled, poured into water (500 cm3) and extracted with ethyl acetate (3×200 cm3). The combined extracts were washed with brine (100 cm3), dried (magnesium sulphate), filtered and concentrated to give a yellow solid. The material was washed well with diethyl ether-hexane (1:9; 2× 100 cm3) and dried in vacuo to give 3-dimethylamino-2-(4-methoxyphenyl)-1-(pyridin-4-yl)propen-1-one as a beige solid (7.7 g; 60%). δH (250 MHz; CDCl3) 2.78 [6 H, broad s, N(CH3)2], 3.79 (3 H, s, OCH3), 6.79 (2 H, d, J 9, methoxyphenyl H-2), 7.04 (2 H, d, J 9, methoxyphenyl H-3), 7.24 (2 H, d, J 6, pyridyl H-3) 7.40 (1 H, s, C═CH) and 8.51 (2 H, d, J 6, pyridyl H-2).

reactant | 2-(4-methoxyphenyl)-1-(pyridin-4-yl)ethanone | 10.2 g | COC1=CC=C(C=C1)CC(=O)C1=CC=NC=C1 | C14H13NO2
reactant | dimethylformamide-dimethylacetal | 20 cm3 | COC(N(C)C)OC | C5H13NO2
reactant | water | 500 cm3 | O | H2O
solvent | dimethylformamide | 50 cm3 | CN(C=O)C | C3H7NO
product | 3-dimethylamino-2-(4-methoxyphenyl)-1-(pyridin-4-yl)propen-1-one | CN(C=C(C(=O)C1=CC=NC=C1)C1=CC=C(C=C1)OC)C | C17H18N2O2
